US04192816
A slurry of 500 mg (1.52 mmoles) of the mixture of E-and Z-3-methyl-5-(2,4,5-trimethyl-3,6-diacetyloxyphenyl)-3-pentenenitrile and 3-methylene-5-(2,4,5-trimethyl-3,6-diacetyloxy-phenyl)pentanenitrile in 5 ml of methanol was treated with 0.71 ml (3.34 mmoles) of a 4.7 M methanolic sodium methoxide solution. The resulting mixture was stirred at room temperature for 4.5 hr, then poured into 20 ml of water and worked-up with ether in the usual manner affording 345 mg (93%) of rac. 3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile as a tan solid.

reactant | Z-3-methyl-5-(2,4,5-trimethyl-3,6-diacetyloxyphenyl)-3-pentenenitrile | C/C(/CC#N)=C/CC1=C(C(=C(C(=C1OC(C)=O)C)C)OC(C)=O)C | C19H23NO4
reactant | 3-methylene-5-(2,4,5-trimethyl-3,6-diacetyloxy-phenyl)pentanenitrile | C=C(CC#N)CCC1=C(C(=C(C(=C1OC(C)=O)C)C)OC(C)=O)C | C19H23NO4
reactant | sodium methoxide | 4.7 M | C[O-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | rac. 3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile | 345 mg, 93% | OC=1C(=C(C2=C(CCC(O2)(CC#N)C)C1C)C)C | C15H19NO2
